US04213985
A mixture of 6.6 g of 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one, 2.56 g of sodium carbonate and 4.0 g of 1-prenylpiperazine was refluxed in 90 ml of absolute ethanol for 2 hours. Then, the reaction mixture was vacuum filtered while still hot and the filtrate was evaporated to a volume of about 20 ml. The crystallized precipitate was vacuum filtered and the product was crystallized from isopropanol to obtain a 62% yield of 5,11-dihydro-11-[3-(4-prenyl-1-piperazinyl)-propionyl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one melting at 199°-201° C.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 6.6 g | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | sodium carbonate | 2.56 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-prenylpiperazine | 4.0 g | C(C=C(C)C)N1CCNCC1 | C9H18N2
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 5,11-dihydro-11-[3-(4-prenyl-1-piperazinyl)-propionyl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 62% yield | C(C=C(C)C)N1CCN(CC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H29N5O2
